US05409936
The mixture of ethyl 2-n-propyl-3-[2'-(t-butoxycarbonyl)biphenyl-4-yl]methyl-5-ethoxycarbonylacetyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate (657 mg), trifluoroacetic acid (3 ml) and methylene chloride (10 ml) is stirred overnight at room temperature. The reaction mixture is washed with a saturated sodium hydrogen carbonate solution and brine, dried, and evaporated. The crude product is purified by silica gelcolumn chromatography (solvent; chloroform/methanol) to give ethyl 2-n-propyl-3-(2'-carboxybiphenyl-4-yl)methyl-5-ethoxycarbonylacetyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate (516 mg).

reactant | ethyl 2-n-propyl-3-[2'-(t-butoxycarbonyl)biphenyl-4-yl]methyl-5-ethoxycarbonylacetyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate | 657 mg | C(CC)C1=NC2=C(C(N(CC2)C(CC(=O)OCC)=O)C(=O)OCC)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC(C)(C)C | C35H43N3O7
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-n-propyl-3-(2'-carboxybiphenyl-4-yl)methyl-5-ethoxycarbonylacetyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate | 516 mg | C(CC)C1=NC2=C(C(N(CC2)C(CC(=O)OCC)=O)C(=O)OCC)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)O | C31H35N3O7
